US06103667
Example P2: 3-(2,4-Dichlorophenyl)-4-methyl-5-(methylthio)-1-methyl-[1H]-pyrazole
0.138 g (0.003 mol) of methyl hydrazine is added to a solution of 0.614 g (0.002 mol) of 1-(2,4-dichlorophenyl)-3,3-bis(methylthio)-2-methyl-2-propen-1-one in 10 ml of acetonitrile and the reaction mixture is heated at 80° C. for 8 hours. The mixture is then concentrated in vacuo and the residue is taken up in ether, washed with water and dried over sodium sulfate. After the ether phase has been concentrated by evaporation, the residue is purified by column chromatography over silica gel with hexane/ethyl acetate 2/1 as eluant. The desired product is obtained in a yield of 0.425 g (74.0%) in the form of a white solid having a melting point of 65-66° C. (recrystallised from hexane).

reactant | methyl hydrazine | 0.003 mol, 0.138 g | CNN | CH6N2
reactant | 1-(2,4-dichlorophenyl)-3,3-bis(methylthio)-2-methyl-2-propen-1-one | 0.002 mol, 0.614 g | ClC1=C(C=CC(=C1)Cl)C(C(=C(SC)SC)C)=O | C12H12Cl2OS2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(2,4-Dichlorophenyl)-4-methyl-5-(methylthio)-1-methyl-[1H]-pyrazole | ClC1=C(C=CC(=C1)Cl)C1=NN(C(=C1C)SC)C | C12H12Cl2N2S
